US07544702B2
2-Chloro-N-{4-methyl-5-[4-(morpholine-4-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-4-trifluoromethyl-benzenesulfonamide (74)
Prepared from 2-amino-5-bromo-4-methylpyridine and 4-(N-morpholinylsulfonyl)thiophenol according to General Method 11 step 1 followed by reaction with 2-chloro-4-trifluoromethylphenylsulfonyl chloride according to General Method 11 step 2. 1H NMR (CDCl3): 13.25 (1H, br s, NH), 8.39 (1H, s, A-ring CH ortho to Cl), 8.32 (1H, d, J 11 Hz, A-ring CH ortho to SO2NH), 7.65 & 7.15 (2×1H, 2×s, pyridyl CH's), 7.62 (1H, d, J 11 Hz, A-ring CH ortho to CF3), 7.55 & 7.10 (2×2H, 2×d, 2×J 10 Hz, Ar CH's of C-ring), 3.70-3.60 (4H, m, CH2OCH2), 2.95-2.84 (4H, m, CH2NCH2), 2.23 (3H, s, CH3) Hplc (Luna 2, Gradient 5): rt=6.01 minutes. LC/MS rt=6.75 minutes, 608 (MH+).

reactant | 2-amino-5-bromo-4-methylpyridine | NC1=NC=C(C(=C1)C)Br | C6H7BrN2
reactant | 4-(N-morpholinylsulfonyl)thiophenol | N1(CCOCC1)S(=O)(=O)C1=CC=C(C=C1)S | C10H13NO3S2
reactant | 2-chloro-4-trifluoromethylphenylsulfonyl chloride | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
product | 2-Chloro-N-{4-methyl-5-[4-(morpholine-4-sulfonyl)-phenylsulfanyl]-pyridin-2-yl}-4-trifluoromethyl-benzenesulfonamide | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC1=NC=C(C(=C1)C)SC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C23H21ClF3N3O5S3
